US06420359B1
5,11-Dihydro-11-ethyl-4-methyl-8-{2-{(1-oxido-4-quinolinyl)oxy}ethyl}-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one
Solid mCPBA (163 mg, 0.75 mmol) was added to a solution of 5,11-dihydro-11-ethyl-4-methyl-8-{2-(4-quinolinyloxy)ethyl}-6H-dipyrido[3,2-b:2′,3′-e] [1,4]diazepin-6-one (144 mg, 0.34 mmol) in CH2Cl2 (7.5 mL). The solution was stirred at room temperature for 2 h. The mixture was diluted with CH2Cl2 (125 mL), washed successively with aqueous 10% Na2S2O3 (2×25 mL), aqueous saturated NaHCO3 (2×25 mL) and brine (25 mL), then was dried (MgSO4), filtered and concentrated under reduced pressure. The residue was purified by flash chromatography (CH2Cl2:MeOH, 10:1) to give the title compound (102 mg, 68% yield) as a white solid: MS (ESI) m/z 442 (MH)+.

reactant | mCPBA | 0.75 mmol, 163 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | 5,11-dihydro-11-ethyl-4-methyl-8-{2-(4-quinolinyloxy)ethyl}-6H-dipyrido[3,2-b:2′,3′-e] [1,4]diazepin-6-one | 0.34 mmol, 144 mg | C(C)N1C2=C(NC(C3=C1N=CC(=C3)CCOC3=CC=NC1=CC=CC=C31)=O)C(=CC=N2)C | C25H23N5O2
solvent | CH2Cl2 | 7.5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 125 mL | C(Cl)Cl | CH2Cl2
product | 5,11-Dihydro-11-ethyl-4-methyl-8-{2-{(1-oxido-4-quinolinyl)oxy}ethyl}-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one | 102 mg, 68% yield | C(C)N1C2=C(NC(C3=C1N=CC(=C3)CCOC3=CC=[N+](C1=CC=CC=C31)[O-])=O)C(=CC=N2)C | C25H23N5O3
